US07129238B2
To a solution of (RS)-N-(4-cyano-2-hydroxy-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide (310 mg) and 2-chloro-5-nitropyridine (205 mg) in DMSO (2 ml) was added cesium carbonate (423 mg). The mixture was stirred at 50° C. for 5 h. The solvent was evaporated, the residue was dissolved in EtOAc and washed with water (2×) and brine (1×). The organic phase was dried, filtered and concentrated. The product was purified by flash chromatography (cyclohexane/EtOAc 9:1=>4:6) to give (RS)-N-[4-cyano-2-(5-nitro-pyridin-2-yloxy)-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide. Light yellow foam. MS 481.4 ([M+H]+)

reactant | (RS)-N-(4-cyano-2-hydroxy-benzyl)-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | 310 mg | C(#N)C1=CC(=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=C1)O | C19H19FN2O4
reactant | 2-chloro-5-nitropyridine | 205 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | cesium carbonate | 423 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | (RS)-N-[4-cyano-2-(5-nitro-pyridin-2-yloxy)-benzyl]-2-ethoxy-2-(2-fluoro-4-methoxy-phenyl)-acetamide | C(#N)C1=CC(=C(CNC(C(C2=C(C=C(C=C2)OC)F)OCC)=O)C=C1)OC1=NC=C(C=C1)[N+](=O)[O-] | C24H21FN4O6
